US07091198B1
tert-Butyl 7-benzyl-1-oxa-4,7-diazaspiro[5.4]decane-4-carboxylate
2.0 g of sodium hydroxide in 25 ml of water are added to 10.3 g (47 mmol) of 7-benzyl-1-oxa-4,7-diazaspiro[5.4]decane in 30 ml of tert-butanol, and 11.0 g (50 mmol) of di-tert-butyl pyrocarbonate are added dropwise. The mixture is stirred at room temperature overnight, 50 ml of water are added, three chloroform extractions and drying over potassium carbonate are carried out, the desiccant is filtered off with suction, the filtrate is concentrated, and the residue is distilled under high vacuum. 13.8 g of the product (88% of theory) are obtained.

reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
reactant | 7-benzyl-1-oxa-4,7-diazaspiro[5.4]decane | 47 mmol, 10.3 g | C(C1=CC=CC=C1)N1C2(CNCCO2)CCC1 | C14H20N2O
reactant | di-tert-butyl pyrocarbonate | 50 mmol, 11.0 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 25 ml | O | H2O
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | water | 50 ml | O | H2O
product | tert-Butyl 7-benzyl-1-oxa-4,7-diazaspiro[5.4]decane-4-carboxylate | 13.8 g, 88% | C(C1=CC=CC=C1)N1C2(CN(CCO2)C(=O)OC(C)(C)C)CCC1 | C19H28N2O3
